US08426411B2
To a solution of (3R,4R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-methyl-piperidine-1-carboxylate (27.9 g, 78 mmol) in 1,4-dioxane (400 mL) was added HCl (4 N in 1,4-dioxane, 58.9 mL, 235 mmol). The resulting suspension was heated at about 60° C. for about 1 h. The reaction was allowed to cool to ambient temperature and then was filtered, washed with 1,4-dioxane (100 mL) followed by Et2O (100 mL), to give 1-((3R,4R)-4-methylpiperidin-3-yl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine hydrochloride (20.6 g, 89%) as a tan solid: LC/MS (Table 1, Method b) Rt=1.27 min; MS m/z: 256 (M+H)+.

reactant | (3R,4R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-methyl-piperidine-1-carboxylate | 78 mmol, 27.9 g | C1(=NC=C2N1C1=C(N=C2)NC=C1)[C@H]1CN(CC[C@H]1C)C(=O)OC(C)(C)C | C19H25N5O2
reactant | HCl | 235 mmol, 4 N, 58.9 mL | Cl | ClH
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 1-((3R,4R)-4-methylpiperidin-3-yl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine hydrochloride | 20.6 g, 89% | Cl.C[C@H]1[C@H](CNCC1)C1=NC=C2N1C1=C(N=C2)NC=C1 | InChI=1S/C14H17N5.ClH/c1-9-2-4-15-8-11(9)14-18-7-10-6-17-13-12(19(10)14)3-5-16-13;/h3,5-7,9,11,15-16H,2,4,8H2,1H3;1H/t9-,11+;/m1./s1
